US08541596B2
N-(3,4,5-Trifluorobenzyl)-N-(4-ethylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from N-(4-ethylbenzyl)benzimidazol-5-amine (251 mg; 1 mmol; 1 eq.), 3,4,5-trifluorobenzylbromide (248 mg; 1.1 mmol; 1.1 eq.) and K2CO3 (152 mg; 1.1 mmol; 1.1 eq.) according to method 6; Yield: 0.078 g (19.7%); MS m/z: 396.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.14 (t, 3H, 3J=7.6 Hz); 2.55 (q, 2H, 3J=7.6 Hz); 4.64 (s, 2H); 4.66 (s, 2H); 6.71-6.74 (m, 2H); 7.13-7.20 (m, 6H); 7.35 (d, 1H, 3J=8.2 Hz); 7.94 (s, 1H); 12.03 (br s, 1H); HPLC (METHOD [A]): rt 18.63 min (92.1%)

reactant | N-(4-ethylbenzyl)benzimidazol-5-amine | 1 mmol, 251 mg, 1 eq. | C(C)C1=CC=C(CNC2=CC3=C(N=CN3)C=C2)C=C1 | C16H17N3
reactant | 3,4,5-trifluorobenzylbromide | 1.1 mmol, 248 mg, 1.1 eq. | FC=1C=C(CBr)C=C(C1F)F | C7H4BrF3
reactant | K2CO3 | 1.1 mmol, 152 mg, 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N-(3,4,5-Trifluorobenzyl)-N-(4-ethylbenzyl)-1H-benzo[d]imidazol-5-amine | FC=1C=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)CC)C=C(C1F)F | C23H20F3N3
